US07300739B2
1,1,1-trifluoro-2-hydroxy-2-trifluoromethyl-4-pentyl norbornene-5-carboxylate (IX)
N-butyllithium (1600 ml) (2.56 mol, 1.6M solution in hexanes) was added to a 3-L, three-necked round bottomed flask equipped with an overhead stirrer, a digital thermometer, a 500-mL capacity constant-pressure dropping funnel and a nitrogen inlet. The dropping funnel was charged with a solution of 1,1,1-trifluoro-2-trifluoromethyl-2,4-pentanediol (289 g, 1.28 mol) in anhydrous THF (250 ml). The flask was cooled in ice and the THF solution was slowly added over about 2 hours, while maintaining a temperature below 100 C. Once the addition was complete, the dropping funnel was recharged with a solution of norbornene-5-carbonylchloride (201 g, 1.28 mol) in anhydrous THF (250 ml), which was then slowly added over about 1.5 hours, while maintaining a temperature below 10° C. The solution was allowed to reach room temperature with stirring overnight. The resulting suspension was transferred to a 4-L separatory funnel and washed once with water (1 L). The organic layer was separated and the aqueous wash was adjusted to pH 6 (litmus) with concentrated HCI and extracted twice with ether (1 L). The combined organic solutions were washed once with water and once with brine and dried over anhydrous magnesium sulfate. The suspension was filtered, the solvent removed on a rotary evaporator and the resulting oil distilled twice at 1200 C. and 0.5 mm Hg to yield 387 g of the title compound as an oil.

reactant | N-butyllithium | 2.56 mol, 1.6M, 1600 ml | [Li+].CCC[CH2-]
reactant | 1,1,1-trifluoro-2-trifluoromethyl-2,4-pentanediol | 1.28 mol, 289 g | FC(C(CC(C)O)(O)C(F)(F)F)(F)F | C6H8F6O2
reactant | norbornene-5-carbonylchloride | 1.28 mol, 201 g | C12C=CC(C(C1)C(=O)Cl)C2 | C8H9ClO
solvent | THF | 250 ml | C1CCOC1 | C4H8O
solvent | THF | 250 ml | C1CCOC1 | C4H8O
product | 1,1,1-trifluoro-2-hydroxy-2-trifluoromethyl-4-pentyl norbornene-5-carboxylate | 387 g | C12C=CC(C(C1)C(=O)OC(CC(C(F)(F)F)(C(F)(F)F)O)C)C2 | C14H16F6O3
